US07482462B2
1.75 g of 1-pyridin-4-yl-cyclopentanecarboxylic acid ethyl ester are dissolved in a mixture of 100 ml of MeOH and aqueous HCl (32%) and the mixture obtained is hydrogenated in the presence of 175 mg of PtO2 as a catalyst under pressure for 5 hours. From the mixture obtained the catalyst is removed by filtration and solvent is evaporated. 1-Piperidin-4-yl-cyclopentanecarboxylic acid ethyl ester in the form of a hydrochloride salt is obtained. 13C-NMR (CD3OD): 176.73, 61.33, 57.71, 45.08, 45.00, 42.14, 33.80, 25.49, 25.43, 25.36, 14.58.

reactant | 1-pyridin-4-yl-cyclopentanecarboxylic acid ethyl ester | 1.75 g | C(C)OC(=O)C1(CCCC1)C1=CC=NC=C1 | C13H17NO2
solvent | MeOH | 100 ml | CO | CH4O
solvent | HCl | Cl | ClH
catalyst | PtO2 | 175 mg | O=[Pt]=O
product | 1-Piperidin-4-yl-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCCC1)C1CCNCC1 | C13H23NO2
